US06548694B2
A solution of 55.0 g of 4-(tert-butyl-dimethyl-silanyloxy)-2-(tert-butyl-diphenyl-silanyloxy)-fluorobenzene described in example 3.1 in 120 ml THF was cooled to −78° C. Within 30 min 97 ml of an 1.3 M solution of sec-butyllithium in cyclohexane was added dropwise. After stirring at −78° C. for an hour, 9.7 DMF in 18.3 ml THF was added within 20 min. The mixture was stirred at −78° C. for 1 hr, then warmed to r.t. within 90 min and quenched with 300 ml ice-cold water. The product was isolated by extraction with Et2O to yield 60.6 g 5-(tert-butyl-dimethyl-silanyloxy)-3-(tert-butyl-diphenyl-silanyloxy)-2-fluoro-benzaldehyde as yellow liquid.

reactant | 4-(tert-butyl-dimethyl-silanyloxy)-2-(tert-butyl-diphenyl-silanyloxy)-fluorobenzene | 55.0 g | C(C)(C)(C)[Si](OC1=CC(=C(C=C1)F)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)(C)C | C28H37FO2Si2
reactant | sec-butyllithium | C(C)(CC)[Li]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
solvent | THF | 18.3 ml | C1CCOC1 | C4H8O
product | 5-(tert-butyl-dimethyl-silanyloxy)-3-(tert-butyl-diphenyl-silanyloxy)-2-fluoro-benzaldehyde | 60.6 g | C(C)(C)(C)[Si](OC=1C=C(C(=C(C=O)C1)F)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)(C)C | C29H37FO3Si2
